US08445679B2
morpholino(4-nitro-3-(trifluoromethyl)phenyl)methanone
To a mixture of 4-nitro-3-trifluoromethylbenzoic acid (10 g), morpholine (3.7 g) in dichloromethane (300 mL) was added DMAP (5.2 g) and 1-ethyl-3-(3-(dimethylamino)propyl)-carbodiimide hydrochloride (12.3 g). The mixture was stirred at room temperature overnight, washed with 5% aqueous HCl, water and brine and concentrated.

reactant | 4-nitro-3-trifluoromethylbenzoic acid | 10 g | [N+](=O)([O-])C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4F3NO4
reactant | morpholine | 3.7 g | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-(dimethylamino)propyl)-carbodiimide hydrochloride | 12.3 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
catalyst | DMAP | 5.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | morpholino(4-nitro-3-(trifluoromethyl)phenyl)methanone | O1CCN(CC1)C(=O)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C12H11F3N2O4
